US06919356B2
Part L: Preparation of 3-(4-fluorophenyl)-2,2-dimethyl-propionic acid
A mixture of 3-(4-fluorophenyl)-2,2-dimethyl-propionic acid ethyl ester (10.0 g, 44.6 mmol) and a solution of sodium hydroxide (25 g) in water (110 mL) was heated to reflux for 18 hours. The resulting solution was cooled to room temperature, then was stirred on ice and acidified to about pH 1 with concentrated aqueous hydrochloric acid. The resulting precipitate was collected by filtration, washed thoroughly with water, and dried under vacuum. The solid was stirred in dichloromethane, and the mixture was filtered to remove a residual gelatinous solid. The filtrate was concentrated to provide a pale yellowish solid (7.60 g, 87%) which was used without further purification. 1H NMR (300 MHz, CDCl3) δ7.14 (m, 2H), 6.98 (t, J=8 Hz, 2H), 2.88 (s, 2H), 1.22 (s, 6H). Mass spec (ES−) m/z 195.2 (M−H−, 100%).

reactant | 3-(4-fluorophenyl)-2,2-dimethyl-propionic acid ethyl ester | 44.6 mmol, 10.0 g | C(C)OC(C(CC1=CC=C(C=C1)F)(C)C)=O | C13H17FO2
reactant | sodium hydroxide | 25 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 110 mL | O | H2O
product | 3-(4-fluorophenyl)-2,2-dimethyl-propionic acid | 7.60 g, 87% | FC1=CC=C(C=C1)CC(C(=O)O)(C)C | C11H13FO2
